US08669255B2
[(7R,8aS)-7-hydroxyhexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl][3-(trifluoromethyl)phenyl]methanone
A mixture of (7R,8aS)-2-benzyloctahydropyrrolo[1,2-a]pyrazin-7-ol (Example 54D, 1 g, 4.30 mmol) and ethanol (10 mL) were added to 20% palladium hydroxide on carbon, wet (0.100 g) in a pressure bottle. The mixture was stirred at 50° C. for 16 hours under 30 psi of hydrogen. The mixture was filtered through a nylon membrane to give a crude intermediate (7R,8aS)-octahydropyrrolo[1,2-a]pyrazin-7-ol. To a solution of crude (7R,8aS)-octahydropyrrolo[1,2-a]pyrazin-7-ol (1.422 g, 10 mmol) and triethylamine (1.62 g, 16 mmol) in dichloromethane (50 mL) was slowly added a solution of 3-(trifluoromethyl)benzoyl chloride (2.09 g, 10 mmol) in dichloromethane (3 mL). The mixture was stirred at room temperature for 2 hours. The mixture was concentrated, diluted with ethyl acetate (100 mL), washed with water (20 mL), dried over sodium sulfate, and filtered. The organic solution was concentrated, and the residue was purified by chromatography on silica gel (dichloromethane/methanol=10:1) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43-1.63 (m, 2H), 2.10-2.27 (m, 3H), 2.50 (m, 1H), 2.80-3.00 (m, 2H), 3.20-3.50 (m, 2H), 4.22 (m, 1H), 4.42-4.60 (m, 1H), 4.80 (m, 1H), 7.70 (m, 3H), 7.82 (m, 1H); MS (ESI) m/z 315 (M+H)+.

reactant | (7R,8aS)-octahydropyrrolo[1,2-a]pyrazin-7-ol | 10 mmol, 1.422 g | C1[C@H]2N(CCN1)C[C@@H](C2)O | C7H14N2O
reactant | triethylamine | 16 mmol, 1.62 g | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)benzoyl chloride | 10 mmol, 2.09 g | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | [(7R,8aS)-7-hydroxyhexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl][3-(trifluoromethyl)phenyl]methanone | O[C@@H]1C[C@@H]2N(CCN(C2)C(=O)C2=CC(=CC=C2)C(F)(F)F)C1 | C15H17F3N2O2
